*********************************************************************
*  (C)  Copyright  TOSHIBA CORPORATION  2015
*  Date                 : 30/03/2015
*  File name            : SSM6L40TU_N.lib
*  Part Number          : SSM6L40TU_N
*  Parameter ver.       : Ver.1
*  Simulator            : PSPICE
*  Model call name      : NMOS_SSM6L40TU_N
*  TNOM                 : 25 degree
*  Pin Assign           : 1=Drain 2=Gate 3=Source
*********************************************************************
.SUBCKT NMOS_SSM6L40TU_N 1 2 3
M0 1 22 3 3
+ smsmosfet
+ L = 5E-006
+ W = 0.1
+ AD = 2E-009
+ AS = 2E-009
+ PD = 0.2
+ PS = 0.2
D0 3 1 DDS1
D1 3 1 DDS2
D2 2 10 DGS1
D3 3 10 DGS2
R1 10 3 1E+009
R2 10 2 1E+009
RG 2 22 38
.MODEL smsmosfet NMOS
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5E-008
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 1.82
+ VOFF = -0.08
+ NFACTOR = 3.5
+ U0 = 2977.441
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 8.7868e-10
+ UB = 5.87E-019
+ UC = -4.65E-011
+ VSAT = 53829.9647
+ A0 = 0.86438
+ AGS = 6.9116e-06
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.0062511
+ RDSW = 7920
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 2.4E-004
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.08
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 4.3377
+ PDIBLC1 = 0.39
+ PDIBLC2 = 0.015428
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-009
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 0
+ XPART = 0
+ CGSO = 3.4754e-08
+ CGDO = 3.6117e-10
+ CGBO = 0
+ CGDL = 4.028e-08
+ CGSL = 1.8708e-09
+ CKAPPA = 0.99625
+ CF = 0
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 0.0080426
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 1.2024
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.47685
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -1.2
+ KT1 = -0.93
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 3.3E+004
+ PRT = 9000
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.04747
.MODEL DDS1 D
+ TNOM = 25
+ IS = 3.0189e-12
+ RS = 0.10161
+ N = 1.1597
+ CJO = 1.2028e-12
+ VJ = 0.51461
+ M = 0.24736
+ XTI = 3
+ BV = 30
+ IBV = 0.001
.MODEL DDS2 D
+ TNOM = 25
+ IS = 3.0189e-12
+ RS = 0.10161
+ N = 1.1597
+ CJO = 4.1457e-13
+ VJ = 0.5072
+ M = 0.22432
+ XTI = 3
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-015
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-015
.ENDS
